US09337018B2
In a 3-necked round bottom flask equipped with a mechanic stirrer, a condenser, and an addition funnel, a solution of 1 equivalent monochlorodisilane in hexane was cooled to −10° C. with a cold bath. With stirring, 2 equivalent of di-iso-propylamine was added dropwise through the addition funnel. After the addition was completed, the reaction mixture was allowed to warm up to room temperature. The reaction mixture was stirred at room temperature for 2 hours, followed by filtration. A distillation removed solvent hexane from the filtrate. The product di-iso-propylaminodisilane was obtained by vacuum distillation. Gas chromatography (GC) showed that it was >99% pure di-iso-propylaminodisilane (DIPADS) (1H NMR (500 MHz, C7D8): δ=4.89 (m, SiH2), 3.31 (t, SiH3), 2.93 (m, CHMe2), 1.00 (d, CHMe2). FIG. 1 shows the TGA/DSC graph of di-iso-propylaminodisilane, wherein the TGA demonstrates that the compound is volatile and the DSC shows it has a boiling point of about 157° C.

reactant | monochlorodisilane | 1 equivalent | Cl[SiH2][SiH3] | ClH5Si2
reactant | di-iso-propylamine | 2 equivalent | C(C)(C)NC(C)C | C6H15N
solvent | hexane | CCCCCC | C6H14
product | di-iso-propylaminodisilane | C(C)(C)N(C(C)C)[SiH2][SiH3] | C6H19NSi2
